US04186135
21 g of diethylaminoethylamine and 85 ml of acetone were introduced into a balloon flask provided with an agitator and a thermometer. The mixture was cooled to 0° C. and then 36 g of 1,4-benzodioxane-5-carbonyl chloride were added. The crystals formed at ambient temperature were dried off, washed with acetone, dried and purified by recrystallization from isopropyl alcohol. 36.5 g of N-(diethylaminoethyl)-1,4-benzodioxane-5-carboxamide hydrochloride were obtained (M.P.: 120° C.; yield: 64%).

reactant | diethylaminoethylamine | 21 g | C(C)N(CC)CCN | C6H16N2
reactant | 1,4-benzodioxane-5-carbonyl chloride | 36 g | O1CCOC2=C1C=CC=C2C(=O)Cl | C9H7ClO3
solvent | acetone | 85 ml | CC(=O)C | C3H6O
product | N-(diethylaminoethyl)-1,4-benzodioxane-5-carboxamide hydrochloride | 36.5 g, yield: 64% | Cl.C(C)N(CC)CCNC(=O)C1=CC=CC=2OCCOC21 | InChI=1S/C15H22N2O3.ClH/c1-3-17(4-2)9-8-16-15(18)12-6-5-7-13-14(12)20-11-10-19-13;/h5-7H,3-4,8-11H2,1-2H3,(H,16,18);1H
